** HSPICE file for fulladder_ld
**   - generated by ext2sp v4.1

** Include netlist file for fulladder_ld
.include fulladder_ld.spice

** Default 3.3V Power Supply
Vsupply Vdd GND 3.3V

** Specify input signals here
** e.g. for inputs A and B
VA A GND PWL(0NS 0V  1.75NS 0V  2NS 3.3V  3.75NS 3.3V  4NS 0V  5.75NS 0V  6NS  3.3V  7.75NS 3.3V  8NS 0V  9.75NS 0V  10NS 3.3V  11.75NS 3.3V  12NS  0V  13.75NS 0V  14NS  3.3V  15.75NS 3.3V  16NS 0V)
VB B GND PWL(0NS 0V  3.75NS 0V  4NS 3.3V  7.75NS 3.3V  8NS 0V  11.75NS 0V  12NS  3.3V  15.75NS 3.3V  16NS 0V)
VCin Cin GND PWL(0NS 0V  7.75NS 0V  8NS 3.3V  15.75NS 3.3V  16NS 0V)

** Default Simulation - Type, Resolution & Duration
.TRAN 10PS 20NS

** Specify ouput signals to measure here
.measure tran prop_delay_AS_1 TRIG v(A) VAL='3.3*0.5' TD=0NS RISE=1 TARG v(S) VAL='3.3*0.5' TD=0NS RISE=1
.measure tran prop_delay_BS_1 TRIG v(B) VAL='3.3*0.5' TD=0NS RISE=1 TARG v(S) VAL='3.3*0.5' TD=0NS RISE=1
.measure tran prop_delay_CinS_1 TRIG v(Cin) VAL='3.3*0.5' TD=0NS RISE=1 TARG v(S) VAL='3.3*0.5' TD=0NS RISE=1
.measure tran prop_delay_AS_0 TRIG v(A) VAL='3.3*0.5' TD=0NS FALL=1 TARG v(S) VAL='3.3*0.5' TD=0NS FALL=1
.measure tran prop_delay_BS_0 TRIG v(B) VAL='3.3*0.5' TD=0NS FALL=1 TARG v(S) VAL='3.3*0.5' TD=0NS FALL=1
.measure tran prop_delay_CinS_0 TRIG v(Cin) VAL='3.3*0.5' TD=0NS FALL=1 TARG v(S) VAL='3.3*0.5' TD=0NS FALL=1

.measure tran prop_delay_ACout_1 TRIG v(A) VAL='3.3*0.5' TD=0NS RISE=1 TARG v(Cout) VAL='3.3*0.5' TD=0NS RISE=1
.measure tran prop_delay_BCout_1 TRIG v(B) VAL='3.3*0.5' TD=0NS RISE=1 TARG v(Cout) VAL='3.3*0.5' TD=0NS RISE=1
.measure tran prop_delay_CinCout_1 TRIG v(Cin) VAL='3.3*0.5' TD=0NS RISE=1 TARG v(Cout) VAL='3.3*0.5' TD=0NS RISE=1
.measure tran prop_delay_ACout_0 TRIG v(A) VAL='3.3*0.5' TD=0NS FALL=1 TARG v(Cout) VAL='3.3*0.5' TD=0NS FALL=1
.measure tran prop_delay_BCout_0 TRIG v(B) VAL='3.3*0.5' TD=0NS FALL=1 TARG v(Cout) VAL='3.3*0.5' TD=0NS FALL=1
.measure tran prop_delay_CinCout_0 TRIG v(Cin) VAL='3.3*0.5' TD=0NS FALL=1 TARG v(Cout) VAL='3.3*0.5' TD=0NS FALL=1

** Save results for display
.OPTIONS POST
** Avoid DC convergence in at unreasonable voltage
.OPTIONS GMINDC=1n

.END
